US04405357
Under an argon atmosphere a stirred solution of 10.0 grams (0.065 mole) of 3-chloro-2,2-dimethylpropionyl chloride (prepared in the manner of Example 1, Step B) in 70 ml of methylene chloride was cooled to -70° and 6.1 grams (0.075 mole) of pyridine was added dropwise. A solution of 7.0 grams (0.065 mole) of N-phenylhydroxylamine in 30 ml of methylene chloride was then added dropwise over a 20-minute period. During the addition the reaction mixture temperature rose to -55°. Upon completion of addition the reaction mixture was stirred at -70° to -55° for 30 minutes, then was allowed to warm to ambient temperature where it was stirred for two hours. The reaction mixture was diluted with 100 ml of methylene chloride and washed with 100 ml of water, 100 ml of an aqueous 10% hydrochloric acid solution, and finally with 100 ml of water. The organic layer was dried by standing over magnesium sulfate for 16 hours. The darkened mixture was filtered and the filtrate concentrated under reduced pressure to give a black residue. The residue was slurried with 15 ml of hexane and the insolubles collected by filtration. The insoluble material was recrystallized from hexane/ethyl acetate to give 3.7 grams of 3-chloro-N-hydroxy-N-phenyl-2,2-dimethylpropanamide; mp 120°-121°.

reactant | 3-chloro-2,2-dimethylpropionyl chloride | 0.065 mole, 10.0 grams | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
reactant | pyridine | 0.075 mole, 6.1 grams | N1=CC=CC=C1 | C5H5N
reactant | N-phenylhydroxylamine | 0.065 mole, 7.0 grams | C1(=CC=CC=C1)NO | C6H7NO
reactant | hexane | 15 ml | CCCCCC | C6H14
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-N-hydroxy-N-phenyl-2,2-dimethylpropanamide | 3.7 grams | ClCC(C(=O)N(C1=CC=CC=C1)O)(C)C | C11H14ClNO2
